US09193734B2
Synthesis of N-benzyl-2-(2-((S)-1-(((S)-1,1-diethoxypropan-2-yl)(quinolin-8-ylmethyl)amino)-3-(4-hydroxy-2,6-dimethylphenyl)-1-oxopropan-2-ylamino)-2-oxoethyl)-2-methylhydrazinecarboxamide (Compound II-9)
To the solution of 2-(2-(benzylcarbamoyl)-1-methylhydrazinyl)acetic acid (Compound VI-9) 299 mg (1.26 mmol) and (S)-2-amino-N—((S)-1,1-diethoxypropan-2-yl)-3-(4-hydroxy-2,6-dimethylphenyl)-N-(quinolin-8-ylmethyl)propanamide (Compound IV-9) 404 mg (0.84 mmol) in dichloromethane 5 ml and dimethylformamide 5 ml, 4-(4,6-dimethoxy-1,3,5-triazin-2-yl)-4-methylmorpholinium chloride 305 mg (1.26 mmol) was added and stirred at room temperature for 24 hours. The reaction mixture was diluted with ethyl acetate 50 ml and washed with saturated sodium bicarbonate 50 ml, water 50 ml and brine 50 ml. The organic phase was dried with magnesium sulfate and filtered. The filtrate was concentrated in vacuo and the residue was purified on Buch silica gel column chromatography (chloroform:methanol=99:1 to 98:2) to obtain the title compound 298 mg (50%).

reactant | 2-(2-(benzylcarbamoyl)-1-methylhydrazinyl)acetic acid | 1.26 mmol, 299 mg | C(C1=CC=CC=C1)NC(=O)NN(C)CC(=O)O | C11H15N3O3
reactant | (S)-2-amino-N—((S)-1,1-diethoxypropan-2-yl)-3-(4-hydroxy-2,6-dimethylphenyl)-N-(quinolin-8-ylmethyl)propanamide | 0.84 mmol, 404 mg | N[C@H](C(=O)N(CC=1C=CC=C2C=CC=NC12)[C@H](C(OCC)OCC)C)CC1=C(C=C(C=C1C)O)C | C28H37N3O4
reactant | 4-(4,6-dimethoxy-1,3,5-triazin-2-yl)-4-methylmorpholinium chloride | 1.26 mmol, 305 mg | [Cl-].COC1=NC(=NC(=N1)OC)[N+]1(CCOCC1)C
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | N-benzyl-2-(2-((S)-1-(((S)-1,1-diethoxypropan-2-yl)(quinolin-8-ylmethyl)amino)-3-(4-hydroxy-2,6-dimethylphenyl)-1-oxopropan-2-ylamino)-2-oxoethyl)-2-methylhydrazinecarboxamide | 298 mg, 50% | C(C1=CC=CC=C1)NC(=O)NN(C)CC(=O)N[C@H](C(=O)N(CC=1C=CC=C2C=CC=NC12)[C@H](C(OCC)OCC)C)CC1=C(C=C(C=C1C)O)C | C39H50N6O6
